US07960552B2
To a solution of (1,1-dimethylethyl)oxyethanal oxime (8.59 g, 65.5 mmol) in N,N-dimethylformamide (50 mL) was added N-chlorosuccinimide (8.45 g, 65.5 mmol). The solution was stirred for approximately 1 hour. The solution was poured into ether and washed twice with water. The organic layer containing the crude imidoyl chloride was then washed with brine, was dried over magnesium sulfate and concentrated. Then to a solution of methyl isobutyrylacetate (8.86 mL, 78.6 mmol) in tetrahydrofuran (40 mL) at 0° C. was added a 0.5 M solution of sodium methoxide in methanol (157 mL, 78.6 mmol). After stirring for approximately 5 minutes the above imidoyl chloride was added in tetrahydrofuran (30 mL). A solid was observed to precipitate. After the addition was complete the mixture was allowed to stir and warm to ambient temperature overnight. Then the solution was poured into ether and washed with water containing sodium chloride, dried over magnesium sulfate and concentrated to afford methyl 3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate (10.6 g, 63%). 1H-NMR (400 MHz, DMSO-d6) δ 4.52 (s, 2H), 3.77 (s, 3H), 3.67 (septet, J=7 Hz, 1H), 1.25 (d, J=7 Hz, 6H), 1.18 (s, 9H).

reactant | (1,1-dimethylethyl)oxyethanal oxime | 65.5 mmol, 8.59 g | CC(C)(C)OCC=NO | C6H13NO2
reactant | N-chlorosuccinimide | 65.5 mmol, 8.45 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methyl isobutyrylacetate | 78.6 mmol, 8.86 mL | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 78.6 mmol, 157 mL | CO | CH4O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | methyl 3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate | 10.6 g, 63% | CC(C)(C)OCC1=NOC(=C1C(=O)OC)C(C)C | C13H21NO4
